US04548747
(3S-trans)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-1-[[(phenylmethoxy)carbonyl]methoxy]-2-azetidinone (0.73 g, 2.0 mmol) was dissolved in 12 ml of absolute ethanol and 0.36 g of 10% palladium on charcoal was added under argon. Hydrogenolysis (1 atmosphere, 20° C.) was completed in 30 minutes. The reaction mixture was filtered and the volatiles were removed to yield 0.55 g of crude (3S-trans)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-4-methyl-1-(carboxymethoxy)-2-azetidinone.

reactant | (3S-trans)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-1-[[(phenylmethoxy)carbonyl]methoxy]-2-azetidinone | 2.0 mmol, 0.73 g | CC(C)(OC(=O)N[C@@H]1C(N([C@H]1C)OCC(=O)OCC1=CC=CC=C1)=O)C | C18H24N2O6
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.36 g | [Pd] | Pd
product | (3S-trans)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-4-methyl-1-(carboxymethoxy)-2-azetidinone | 0.55 g | CC(C)(OC(=O)N[C@@H]1C(N([C@H]1C)OCC(=O)O)=O)C | C11H18N2O6
